US07132425B2
A solution of 5-(2,2-dimethoxy-ethyl)-pyrazin-2-yl-carbamic acid benzyl ester (130 mg, 0.4096 mmol) in methanol (5 mL) was treated with 10% palladium on activated carbon (30 mg). The reaction mixture was then hydrogenated under a hydrogen atmosphere at 25° C. and atmospheric pressure for 60 min, The mixture was filtered through celite, and the filtrate was concentrated in vacuo to afford 5-(2,2-dimethoxy-ethyl)-pyrazin-2-ylamine (75 mg, 100%) as a pale yellow oil.

reactant | 5-(2,2-dimethoxy-ethyl)-pyrazin-2-yl-carbamic acid benzyl ester | 0.4096 mmol, 130 mg | C(C1=CC=CC=C1)OC(NC1=NC=C(N=C1)CC(OC)OC)=O | C16H19N3O4
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium on activated carbon | 30 mg | [Pd] | Pd
product | 5-(2,2-dimethoxy-ethyl)-pyrazin-2-ylamine | 75 mg, 100% | COC(CC=1N=CC(=NC1)N)OC | C8H13N3O2
